US07452899B2
4-(4-fluorophenyl)-2-methylpyridine
A mixture of 4-chloro-2-methylpyridine (10 g, 79 mmol) and (4-fluorophenyl)boronic acid (13.2 g, 94 mmol) in DME (150 ml) and 2M Na2CO3 (94 ml) was degassed for 5 minutes with a stream of nitrogen before adding Pd(PPh3)4 (1.8 g, 2 mol %) and then refluxing overnight. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (30 ml), washed with 4 N NaOH (40 ml) and then with brine (50 ml). The organic layer was then dried over MgSO4, concentrated in vacuo and purified by chromatography on silica gel eluting with a gradient 30-50% ethyl acetate/hexane to afford 9.0 g of the title compound (61%): δH (360 Mz, CDCl3) 2.62 (3H, s), 7.16 (2H, t, J 8.5), 7.27 (1H, d, J 5.0), 7.33 (1H, s), 7.58-7.62 (2H, m), 8.53 (1H, d, J 5.0); m/z (ES+) 188 (MH30 ).

reactant | 4-chloro-2-methylpyridine | 79 mmol, 10 g | ClC1=CC(=NC=C1)C | C6H6ClN
reactant | (4-fluorophenyl)boronic acid | 94 mmol, 13.2 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | DME | 150 ml | COCCOC | C4H10O2
solvent | Na2CO3 | 2M, 94 ml | C(=O)([O-])[O-].[Na+].[Na+]
product | 4-(4-fluorophenyl)-2-methylpyridine | 9.0 g, 61% | FC1=CC=C(C=C1)C1=CC(=NC=C1)C | C12H10FN
